US04340753
A solution of 5 parts of 5-keto-3,3-dimethylhexanoic acid and about 15 parts of 73% sulfuric acid was heated for one hour in a 130°-135° oil bath. The cooled solution was then poured into a separatory funnel containing ice and chloroform. The aqueous phase was then washed three times with additional chloroform. The combined organic extractions were then dried and evaporated. There was obtained an 82.3% yield of dimedone. It was further recrystallized from toluene.

reactant | 5-keto-3,3-dimethylhexanoic acid | O=C(CC(CC(=O)O)(C)C)C | C8H14O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | dimedone | 82.3% yield | CC1(CC(=O)CC(=O)C1)C | C8H12O2
